US05856495
3) Formic acid N'-(2,4-dichloro-5-(2-propinyloxy)-phenyl)hydrazide
A stirred suspension of formic acid N'-(2,4-dichloro-5-hydroxyphenyl)-hydrazide sodium salt (1.1 g, 5 mmol) in a mixture of 25 ml acetone and 25 ml water is reacted at room temperature with benzene sulfonic acid-(2-propargyl)ester (1.01 g, 5 mmol). Sodium hydroxide solution (0,2 g, 5 mmol in 5 ml water) is added dropwise within 30 minutes so that the pH value lies between 9.5 and 10. The result is reacted with 10 ml methanol to produce a clear solution. This is heated to 40° C. for 30 minutes during which a precipitate forms. The result is stirred over night, the product is filtered off and washed with water. Yield: 0.8 g (61%) pale brown crystals Melting point: 184° C.

reactant | formic acid N'-(2,4-dichloro-5-hydroxyphenyl)-hydrazide sodium salt | 5 mmol, 1.1 g | [Na].ClC1=C(C=C(C(=C1)Cl)O)NNC=O
reactant | Sodium hydroxide | 5 mmol, 5 ml, 0,2 g | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
product | Formic acid N'-(2,4-dichloro-5-(2-propinyloxy)-phenyl)hydrazide | ClC1=C(C=C(C(=C1)Cl)OCC#C)NNC=O | C10H8Cl2N2O2
